US07485634B2
Preparation of Ethyl 9-Chloro-3-(3-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 9-chloro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 3-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.61 (1H, br s), 8.07 (1H, s), 7.46 (2H, m), 7.28 (4H, m), 7.14 (1H, dd), 4.25 (2H, q), 4.19 (2H, t), 3.21 (2H, t), 1.22 (3H, t); MS (ES): 413 (MH+).

reactant | ethyl 9-chloro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | ClC1=CC=2C3=C(NC2C=C1)C(=CNCC3)C(=O)OCC | C15H15ClN2O2
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | Ethyl 9-Chloro-3-(3-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | ClC1=CC=2C3=C(NC2C=C1)C(=CN(CC3)C(C3=CC(=CC=C3)F)=O)C(=O)OCC | C22H18ClFN2O3
